US07067529B2
To N,N-dimethylformamide (0.36 mL) at 0° C. was added phosphorous oxychloride (0.84 mL, 0.80 g, 10.9 mmol.) dropwise. The mixture was warmed to room temperature and stirred×30 minutes. The mixture was recooled in an ice-bath, and 7-benzyloxy-6-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (2.15 g, 2.11 mmol) in N,N-dimethylformamide (5 mL) was added dropwise. After addition was complete, the mixture was heated on an oil bath×2 hours at 60° C. The mixture was cooled, poured into water (50 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts were washed with water (3×20 mL), saturated aqueous sodium chloride solution (1×20 mL) and dried over anhydrous magnesium sulfate. Concentration of the solvent in vacuo gave a viscous oil that was dissolved methanol (20 mL), and a solution of powdered potassium hydroxide (0.63 g, 10.5 mmol) in methanol (5 mL) was added dropwise. The mixture was stirred overnight (14 hours) at room temperature. The mixture was poured into water (100 mL) and extracted with diethyl ether (3×30 mL). The combined organic extracts were washed with water (30 mL), saturated aqueous sodium chloride solution (30 mL) and dried over anhydrous magnesium sulfate. Concentration gave an orange foam that was dissolved in dichloromethane (100 mL), and maganese (IV) oxide (3 g, 34.8 mmol.) was added in one portion. The mixture was stirred at room temperature×2 hours. Silica gel (5 g) was added to the mixture. The mixture was filtered through a silica gel pad. The silica gel pad was washed with 50% ethyl acetate in hexanes (200 mL). Concentration of the combined filtrates and precipitation from ethyl acetate with hexanes gave 7-benzyloxy-6-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde (1.00 g, 2.42 mmol, 53%) as a yellow solid.

reactant | phosphorous oxychloride | 10.9 mmol, 0.84 mL, 0.80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-benzyloxy-6-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 2.11 mmol, 2.15 g | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OC)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC | C28H29NO5
reactant | water | 50 mL | O | H2O
reactant | potassium hydroxide | 10.5 mmol, 0.63 g | [OH-].[K+]
reactant | water | 100 mL | O | H2O
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.36 mL | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 7-benzyloxy-6-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 2.42 mmol, 1.00 g, 53% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN=C(C2=C1)CC1=CC(=CC=C1)OC)C=O)OC | C26H23NO4
